US04259510
To a 5-liter, 4-necked flask fitted with a stirrer, thermometer, addition funnel, reflux condenser and drying tube is added dimethyl sulfoxide (200 ml), 2-chloro-4-trifluoromethylphenol) (715 g, 3.64 mole), and anhydrous potassium carbonate (520 g, 3.72 moles). The reaction mixture is stirred at room temperature overnight under a nitrogen atmosphere. Then methyl 5-fluoro-2-nitrobenzoate (724 g, 3.64 moles) is added over a 1 hour period (slight exotherm to 31° C.). After stirring overnight at room temperature, the inorganic solids are removed by filtration and 1700 ml of dimethyl sulfoxide removed under vacuum (1 mm, pot temp. of 85° C., vapor temp. of -40° C.). The residue is diluted with a large volume of carbon tetrachloride and water washed. The organic layer is dried with anhydrous magnesium sulfate and the solvent removed under vacuum to afford 1142 g of methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate (84% yield). Anal. Calcd. for C15H9ClF3NO5 : C, 47.90; H, 2.42; Cl, 9.45; F, 15.20; N, 3.73. Found: C, 47.83; H, 2.47; Cl, 9.15; L F, 14.84; N, 3.69.

reactant | 2-chloro-4-trifluoromethylphenol | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 3.72 moles, 520 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-fluoro-2-nitrobenzoate | 3.64 moles, 724 g | FC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6FNO4
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 1142 g, 84% yield | ClC1=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H9ClF3NO5
